US07691867B2
Di-tert-butyl diethylphosphoramidite (747 mg, 3 mmol) was added slowly to a solution of N-(3-fluorophenyl)-2-{4-[(7-{3-[(2 hydroxyethyl)(propyl)amino]propoxy}quinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide (390 mg, 0.75 mmol) and tetrazole (158 mg, 2.25 mmol) in dimethylacetamide (4 ml) under nitrogen. The mixture was stirred at ambient temperature for 1 hour. Hydrogen peroxide (383 μl, 3.38 mmol, 30% aqueous solution) was added slowly at 0° C. and the reaction mixture stirred for 1.5 hours at ambient temperature. An additional portion of hydrogen peroxide (42 μl, 0.37 mmol) was added to the solution to complete the oxidation. The mixture was cooled to 0° C. and a saturated solution of sodium metabisulphite (7 ml of 0.53 M solution) added slowly with vigorous stirring. The mixture was stirred at ambient temperature for 20 minutes, diluted with water and the pH adjusted to 7 with an aqueous solution of potassium hydrogen carbonate. The reaction mixture was extracted with dichloromethane (3×25 ml) and the combined organics dried and concentrated in vacuo. Purification by silica gel chromatography, eluting with dichloromethane followed by increased polarity to dichloromethane:methanol:ammonia (20:1:0.1 to 20:3:0.2) gave di-tert-butyl 2-[[3-({4-[(1-{2-[(3-fluorophenyl)amino]-2-oxoethyl}-1H-pyrazol-4-yl)amino]quinazolin-7-yl}oxy)propyl](propyl)amino]ethyl phosphite as a pale yellow oil. This intermediate was dissolved in dioxane (10 ml) and a solution of 4.0 N hydrochloric acid in dioxane (1.12 ml, 4.5 mmol) added. The mixture was stirred at ambient temperature for 18 hours. The solid was filtered, washed with dichloromethane and diethyl ether and dried in vacuo for 18 hours (50° C., 0.1 mm Hg) to yield compound 255 in table 11 as the dihydrochloride salt (375 mg, 70% yield):

reactant | Di-tert-butyl diethylphosphoramidite | 3 mmol, 747 mg | C(C)N(P(OC(C)(C)C)OC(C)(C)C)CC | C12H28NO2P
reactant | N-(3-fluorophenyl)-2-{4-[(7-{3-[(2 hydroxyethyl)(propyl)amino]propoxy}quinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide | 0.75 mmol, 390 mg | FC=1C=C(C=CC1)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)OCCCN(CCC)CCO)=O | C27H32FN7O3
reactant | tetrazole | 2.25 mmol, 158 mg | N1N=NN=C1 | CH2N4
reactant | Hydrogen peroxide | 3.38 mmol, 383 μl | OO | H2O2
reactant | hydrogen peroxide | 0.37 mmol, 42 μl | OO | H2O2
reactant | sodium metabisulphite | 0.53 M, 7 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | di-tert-butyl 2-[[3-({4-[(1-{2-[(3-fluorophenyl)amino]-2-oxoethyl}-1H-pyrazol-4-yl)amino]quinazolin-7-yl}oxy)propyl](propyl)amino]ethyl phosphite | P(OC(C)(C)C)(OC(C)(C)C)OCCN(CCC)CCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=CC(=CC=C1)F | C35H49FN7O5P
